US07250518B2
4-Aminomethyl-3-fluoro-phenol hydrochloride of Formula (6.0.40):
2-Fluoro-4-hydroxybenzonitrile (10 g, Allied Signal) was added to a 500 mL Parr flask, followed by palladium hydroxide (5 g). Anhydrous ethanol (200 mL) was then added under nitrogen atmosphere, followed by aq. concentrated hydrochloric acid (7.55 mL). The mixture was shaken under 50 psi of hydrogen for 1.5 h, then filtered through nylon. The filtrate was concentrated, washed with ethyl acetate, then dried in vacuo to yield the crude title compound (9.8 g).

reactant | 2-Fluoro-4-hydroxybenzonitrile | 10 g | FC1=C(C#N)C=CC(=C1)O | C7H4FNO
reactant | hydrochloric acid | 7.55 mL | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | palladium hydroxide | 5 g | [OH-].[Pd+2].[OH-]
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 4-Aminomethyl-3-fluoro-phenol hydrochloride | 9.8 g | Cl.NCC1=C(C=C(C=C1)O)F | InChI=1S/C7H8FNO.ClH/c8-7-3-6(10)2-1-5(7)4-9;/h1-3,10H,4,9H2;1H
